US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-8-fluoro-1-methylquinazoline-2,4(1H,3H)-dione (4.80 g, 13.2 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (4.36 g, 17.2 mmol), potassium acetate (3.89 g, 39.6 mmol) and PdCl2(dppf) DCM adduct (0.540 g, 0.661 mmol) in dioxane (65 mL) was heated to reflux for 2 h. After cooling to room temperature, the mixture was filtered through CELITE® and the solids were rinsed with EtOAc. The filtrate was diluted with EtOAc, washed with water, and dried and concentrated. The residue was subjected to column chromatography on silica gel (80 g), eluting with EtOAc-hexanes (gradient from 20-50%), to provide 8-fluoro-1-methyl-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl) quinazoline-2,4(1H,3H)-dione as a white solid (4.61 g, 85% yield). Mass spectrum m/z 411 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.14-8.08 (m, 1H), 7.93 (dd, J=7.5, 1.3 Hz, 1H), 7.48 (ddd, J=14.0, 8.0, 1.5 Hz, 1H), 7.34 (t, J=7.6 Hz, 1H), 7.27-7.20 (m, 2H), 3.88 (d, J=7.9 Hz, 3H), 2.36 (s, 3H), 1.36 (s, 12H).

reactant | 3-(3-bromo-2-methylphenyl)-8-fluoro-1-methylquinazoline-2,4(1H,3H)-dione | 13.2 mmol, 4.80 g | BrC=1C(=C(C=CC1)N1C(N(C2=C(C=CC=C2C1=O)F)C)=O)C | C16H12BrFN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 17.2 mmol, 4.36 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 39.6 mmol, 3.89 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 65 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.661 mmol, 0.540 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 8-fluoro-1-methyl-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl) quinazoline-2,4(1H,3H)-dione | 4.61 g, 85% yield | FC=1C=CC=C2C(N(C(N(C12)C)=O)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C22H24BFN2O4
